US08071584B2
5-{5-[(Dimethylamino)methyl]-3-thienyl}-3-(2,2-dimethyl-1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-1H-indole-7-carboxamide
3-(2,2-Dimethyl-1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-5-(5-formyl-3-thienyl)-1H-indole-7-carboxamide (30 mg, 0.070 mmol) was dissolved in dimethyl sulfoxide (1.5 mL) and put in a microwave vial. The mixture was stirred and 1-2 drops of acetic acid was added, dimethylamine (0.348 mL, 0.697 mmol) was added. The mixture was stirred 2 hours at 23° C., before adding sodium triacetoxyborohydride polymer bound (299 mg, 0.697 mmol). The vial was sealed using a silicon septum, and the mixture left stirring overnight at 23° C. The sodium triacetoxyborohydride polymer bound was removed by filtration (syringe filter 45 um). The product was purified by preparative HPLC (NH4OH buffer). The desired fractions were concentrated, giving 12 mg of the title compound.

reactant | 3-(2,2-Dimethyl-1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-5-(5-formyl-3-thienyl)-1H-indole-7-carboxamide | 0.070 mmol, 30 mg | CC1(S(CCC(C1)C1=CNC2=C(C=C(C=C12)C1=CSC(=C1)C=O)C(=O)N)(=O)=O)C | C21H22N2O4S2
reactant | dimethylamine | 0.697 mmol, 0.348 mL | CNC | C2H7N
reactant | sodium triacetoxyborohydride | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dimethyl sulfoxide | 1.5 mL | CS(=O)C | C2H6OS
catalyst | acetic acid | 1-2 drops | C(C)(=O)O | C2H4O2
product | 5-{5-[(Dimethylamino)methyl]-3-thienyl}-3-(2,2-dimethyl-1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-1H-indole-7-carboxamide | 12 mg | CN(C)CC1=CC(=CS1)C=1C=C2C(=CNC2=C(C1)C(=O)N)C1CC(S(CC1)(=O)=O)(C)C | C23H29N3O3S2
